US04801705
(A) 2-[(3,4-Dihydroxyphenyl)methylene]hydrazinecarboxylic acid, 1,1-dimethylethyl ester
To a solution of 5.30 g (40 mmol) of (t-butoxycarbonyl)hydrazine in 40 ml of 80% aqueous ethanol was added a solution of 5.52 g of 3,4-dihydroxybenzaldehyde in 40 ml of the same solvent. After stirring for three hours at room temperature, the mixture was clarified with charcoal, filtered and the filtrate evaporated in vacuo. The residue was triturated with petroleum ether, filtered off by suction and dried in vacuo; yield: 8.5 g.

reactant | (t-butoxycarbonyl)hydrazine | 40 mmol, 5.30 g | C(C)(C)(C)OC(=O)NN | C5H12N2O2
reactant | 3,4-dihydroxybenzaldehyde | 5.52 g | OC=1C=C(C=O)C=CC1O | C7H6O3
reactant | charcoal | C | CH4
solvent | ethanol | 40 ml | C(C)O | C2H6O
product | 2-[(3,4-Dihydroxyphenyl)methylene]hydrazinecarboxylic acid, 1,1-dimethylethyl ester | OC=1C=C(C=CC1O)C=NNC(=O)OC(C)(C)C | C12H16N2O4
